*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHSD250ELL471MJC5S
*//   Date        : 2021/07/20
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHSD250ELL471MJC5S_20deg-C 1 2

C1 4 2 3.16e-04
C2 5 2 7.06e-05
C3 6 2 6.11e-05
R1 3 4 1.06e-02
R2 4 5 9.66e-02
R3 5 6 2.12e+00
L1 1 3 5.20e-09

.ENDS
*$
